US06414148B1
A solution of (R)-ethyl 1-methylpiperidine-3-carboxylate (5.69 g, 33 mmol) in ether (20 ml) was added dropwise to a stirred solution of lithium aluminum hydride (36.6 ml of a 1M solution in THF, 36.6 mmol) in ether (85 ml) cooled to maintain a reaction temperature of 20° C. The mixture was stirred for 1.5 hours at ambient temperature and then water (1.4 ml), 15% aqueous sodium hydroxide solution (1.4 ml) and then water (4.3 ml) were added. The insolubles were removed by filtration and the volatiles removed from the filtrate by evaporation to give (R)-(1-methylpiperidin-3-yl)methanol (4.02 g, 94%) as a colourless oil.

reactant | (R)-ethyl 1-methylpiperidine-3-carboxylate | 33 mmol, 5.69 g | CN1C[C@@H](CCC1)C(=O)OCC | C9H17NO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.4 ml | O | H2O
reactant | sodium hydroxide | 1.4 ml | [OH-].[Na+]
reactant | water | 4.3 ml | O | H2O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | 85 ml | CCOCC | C4H10O
product | (R)-(1-methylpiperidin-3-yl)methanol | 4.02 g, 94% | CN1C[C@@H](CCC1)CO | C7H15NO
